US04363807
A solution of diphenyldiazomethane (4 g.) in ethyl acetate was added to a stirred solution of 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylic acid (7.0 g.) in ethyl acetate (100 ml.) and tetrahydrofuran (20 ml.), and stirred at room temperature for an hour. After adding acetic acid to the resultant solution, the solution was concentrated in vacuo. The residue was subjected to column chromatography on silica gel, and then eluted with a mixed solvent of ethyl acetate and diisopropyl ether. The eluate was evaporated in vacuo to give diphenylmethyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate (2.5 g.).

reactant | diphenyldiazomethane | 4 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylic acid | 7.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)O)C1=O | C16H18N2O5S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylate | 2.5 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H28N2O5S
